US04634710
65 ml of fuming nitric acid (d=1.5) were added dropwise while cooling to 210 ml of concentrated sulfuric acid. 96.5 g of 2,3,5-trimethylpyridine 1-oxide were subsequently added portionwise at 0°-5°, whereupon the mixture was stirred at room temperature for 1 hour, then heated to 90° within 3 hours and left at this temperature overnight. After cooling the solution was poured on to 1.5 kg of ice, whereupon the mixture was adjusted to pH 3 with concentrated sodium hydroxide solution and extracted three times with 500 ml of methylene chloride. The combined organic phases were washed with 1 l of water, dried over sodium sulfate and evaporated in vacuo. The residue was crystallized from ether/petroleum ether and there was obtained 2,3,5-trimethyl-4-nitropyridine 1-oxide of melting point 76°-78°.

reactant | nitric acid | 65 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,3,5-trimethylpyridine 1-oxide | 96.5 g | CC1=[N+](C=C(C=C1C)C)[O-] | C8H11NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 210 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3,5-trimethyl-4-nitropyridine 1-oxide | CC1=[N+](C=C(C(=C1C)[N+](=O)[O-])C)[O-] | C8H10N2O3
